US09227978B2
tert-Butyl 3-(4-(2-(4-Chloro-5-iodo-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate
To a solution of 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetic acid (2.0 g, 5.88 mmol), tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate (1.84 g, 7.64 mmol), EDCI.HCl (2.26 g, 11.76 mmol), and HOBt (1.59 g, 11.76 mmol) in DMF (3 mL) at 0° C., Et3N (3.28 mL, 23.52 mmol) was added. The resulting mixture was stirred at RT for 16 h and then partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was washed by a mixture of ethyl acetate/petroleum ether=1:5 to afford the desired product (2.24 g, 67% yield) as a white solid. ESI-MS m/z: 565.4[M+H]+.

reactant | 2-(4-chloro-5-iodo-2-methoxyphenylamino)acetic acid | 5.88 mmol, 2.0 g | ClC1=CC(=C(C=C1I)NCC(=O)O)OC | C9H9ClINO3
reactant | tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate | 7.64 mmol, 1.84 g | N1(CCNCC1)C1CN(C1)C(=O)OC(C)(C)C | C12H23N3O2
reactant | EDCI.HCl | 11.76 mmol, 2.26 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 11.76 mmol, 1.59 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 23.52 mmol, 3.28 mL | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(4-(2-(4-Chloro-5-iodo-2-methoxyphenylamino)acetyl)piperazin-1-yl)azetidine-1-carboxylate | 2.24 g, 67% yield | ClC1=CC(=C(C=C1I)NCC(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)OC | C21H30ClIN4O4
